US05496930
14. Preparation of 6-O-acetyl-3-O-chloroacetyl-galactal
1.03 g (5.5 mmol) of 6-O-acetylgalactal are taken up in 10-15 ml of DME and 20-25 ml of vinyl chloroacetate and stirred with 1 g of lipase P (Pseudomonas spec.) at room temperature for 5-6 h. Filtering off the reusable enzyme, concentration of the solution and chromatography (SiO2, ether/hexane 1:2) result in 6-O-acetyl-3-O-chloroacetylgalactal in 80% yield.

reactant | 6-O-acetylgalactal | 5.5 mmol, 1.03 g | C(C)(=O)OC[C@@H]1[C@@H]([C@@H](C=CO1)O)O | C8H12O5
reactant | vinyl chloroacetate | 20-25 ml | ClCC(=O)OC=C | C4H5ClO2
solvent | DME | 10-15 ml | COCCOC | C4H10O2
product | 6-O-acetyl-3-O-chloroacetyl-galactal | 80% yield | C(C)(=O)OC[C@@H]1[C@@H]([C@@H](C=CO1)OC(CCl)=O)O | C10H13ClO6
